US04910190
a. Ethyl 4-(1-oxo-2-phenoxyethylamino)butanoate
To a stirred mixture of ethyl 4-aminobutanoate hydrochloride (3.4 g) and phenoxyacetyl chloride (2.76 ml) in 50 ml of Et2O and 50 ml of water was added one portion of NaHCO3 (4.2 g). After 2 hr the layers were separated and the organic phase was washed (1N HCl, brine), dried (MgSO4), and filtered. Evaporation of the solvent under vacuum gave 3.1 g (53%) of the title compound as an oil.

reactant | ethyl 4-aminobutanoate hydrochloride | 3.4 g | Cl.NCCCC(=O)OCC
reactant | phenoxyacetyl chloride | 2.76 ml | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | NaHCO3 | 4.2 g | C(=O)(O)[O-].[Na+]
solvent | Et2O | 50 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | Ethyl 4-(1-oxo-2-phenoxyethylamino)butanoate | 3.1 g, 53% | O=C(COC1=CC=CC=C1)NCCCC(=O)OCC | C14H19NO4
